// Generated for: spectre
// Generated on: Apr 26 12:29:45 2019
// Design library name: UM_GF14
// Design cell name: TB_IBS_norm
// Design view name: schematic
simulator lang=spectre
global 0
include "PDK_lib.scs" section=SS

// Library name: UM_GF14
// Cell name: IBS_norm_rvt
// View name: schematic
subckt IBS_norm_rvt IBS_IN IBSn_OUT IBSp_OUT VDD VSS
    N2 (IBSn_OUT net7 VSS VSS) NMOS m=4 l=14n nfin=3 nf=4
    N1 (net7 net7 VSS VSS) NMOS m=1 l=14n nfin=3 nf=4
    P2 (IBSp_OUT IBS_IN VDD VDD) NMOS m=4 l=16n nfin=3 nf=4
    P1 (IBS_IN IBS_IN VDD VDD) NMOS m=1 l=14n nfin=3 nf=4
    P0 (net7 IBS_IN VDD VDD) NMOS m=1 l=14n nfin=3 nf=4
ends IBS_norm_rvt
// End of subcircuit definition.

// Library name: UM_GF14
// Cell name: Amp_diff_norm_rvt
// View name: schematic
subckt Amp_diff_norm_rvt IBSn IN IP ON OP VDD VSS
    R9 (OP VDD VDD) resistor r=3.83529K
    R0 (ON VDD VDD) resistor r=3.83529K
    N3 (IBSn IBSn VSS VSS) NMOS m=4 l=14n nfin=3 nf=4
    N2 (OP IN net39 VSS) NMOS m=2 l=14n nfin=3 nf=4
    N1 (ON IP net39 VSS) NMOS m=2 l=14n nfin=3 nf=4
    N0 (net39 IBSn VSS VSS) NMOS m=4 l=14n nfin=3 nf=4
ends Amp_diff_norm_rvt
// End of subcircuit definition.

// Library name: UM_GF14
// Cell name: TB_IBS_norm
// View name: schematic
I34 (net021 net038 net022 VDD 0) IBS_norm_rvt
I35 (net021 0) isource dc=20u type=dc

V8 (net019 0) vsource dc=600.0m mag=-500m type=dc
V7 (net020 0) vsource dc=600.0m mag=500m type=dc
V0 (VDD 0) vsource dc=800.0m type=dc
I37 (net022 net019 net020 rON rOP VDD 0) Amp_diff_norm_rvt

simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 multithread=on nthreads=32 scalem=1.0 scale=1.0 gmin=1e-12 \
    rforce=1 maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
ac ac start=1k stop=100G annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub